US09145402B2
To a mixture of 4-amino-2-fluoro-5-methoxybenzonitrile (66 mg, 0.40 mmol) and 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine (0.10 g, 0.47 mmol) in 1-butanol (2 mL) was added TFA (0.05 mL, 0.07 mmol). The reaction was stirred in a sealed tube at 75° C. for 2 h. The reaction was concentrated and the product was isolated by reverse-phase HPLC to give 2-fluoro-5-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzonitrile. 1H NMR (400 MHz, DMSO) δ 8.57 (d, J=13.4, 2H), 8.34 (s, 1H), 8.29 (d, J=6.1, 1H), 7.56-7.42 (m, 3H), 3.93 (s, 3H), 2.95 (s, 3H); LRRK2 Ki=0.022.

reactant | 4-amino-2-fluoro-5-methoxybenzonitrile | 0.40 mmol, 66 mg | NC1=CC(=C(C#N)C=C1OC)F | C8H7FN2O
reactant | 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine | 0.47 mmol, 0.10 g | ClC1=NC=C(C(=N1)NC)C(F)(F)F | C6H5ClF3N3
reactant | TFA | 0.07 mmol, 0.05 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1-butanol | 2 mL | C(CCC)O | C4H10O
product | 2-fluoro-5-methoxy-4-(4-(methylamino)-5-(trifluoromethyl)pyrimidin-2-ylamino)benzonitrile | FC1=C(C#N)C=C(C(=C1)NC1=NC=C(C(=N1)NC)C(F)(F)F)OC | C14H11F4N5O
